data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4753,5428,[CH3:10][O:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17]#[N:18])[C:19]#[N:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[NH:15][C:16]1([C:17]#[N:18])[C:19]#[N:20],water,298.15,27.60484746995489,-4.63801914488697
301,327,[CH3:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2.[CH3:9][C:10](=[O:11])[N:12]=[NH+:13][N-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[N:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[NH:13][N:12]2[C:10]([CH3:9])=[O:11],water,298.15,31.91069708344235,-20.71233379583252
5128,5823,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[C-:18]([CH3:19])[N+:20]([CH3:21])=[C:22]([CH3:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:18]([C:16]([CH3:15])=[O:17])([CH3:19])[N:20]([CH3:21])[C:22]2([CH3:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,33.122316839636696,-1.07941405312554
110,126,[CH3:13][CH-:14][N+:15]#[N:16].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[N:16]=[N:15][CH:14]3[CH3:13],water,298.15,18.27950774210014,-37.41438748342264
897,970,[CH3:15][C:16](=[O:17])[CH:18]=[N+:19]([CH3:20])[C-:21]([CH3:22])[CH3:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]#[C:9][CH2:10][CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]2=[C:9]([CH2:10][CH2:11][CH2:12][CH2:13][CH2:14]1)[C:21]([CH3:22])([CH3:23])[N:19]([CH3:20])[CH:18]2[C:16]([CH3:15])=[O:17],water,298.15,17.266572610321994,-44.57409821143426
3095,3485,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[C:10]#[N+:11][CH-:12][C:13]([CH3:14])=[O:15]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:10]([C:8]([CH3:7])=[O:9])=[N:11][CH:12]1[C:13]([CH3:14])=[O:15],water,298.15,21.655371645459727,-28.9099497126832
5025,5713,[CH3:9][NH:10][C:11](=[O:12])[C:13](=[O+:14][C-:15]([C:16](=[O:17])[O:18][CH3:19])[C:20](=[O:21])[O:22][CH3:23])[C:24](=[O:25])[NH:26][CH3:27].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:15]([C:16](=[O:17])[O:18][CH3:19])([C:20](=[O:21])[O:22][CH3:23])[O:14][C:13]1([C:11]([NH:10][CH3:9])=[O:12])[C:24](=[O:25])[NH:26][CH3:27],water,298.15,8.752758645950633,-51.46437746851474
4062,4653,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[CH-:15][NH+:16]=[CH:17][C:18](=[O:19])[O:20][CH3:21]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:15]([C:13]([NH:12][CH3:11])=[O:14])[NH:16][CH:17]2[C:18](=[O:19])[O:20][CH3:21],water,298.15,21.53767392542807,-21.20631719497312
3367,3826,[CH3:10][N:11]=[NH+:12][N-:13][C:14](=[O:15])[NH:16][CH3:17].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:13]([C:14](=[O:15])[NH:16][CH3:17])[NH:12][N:11]1[CH3:10],water,298.15,45.105313458179296,4.508526938157783
2092,2320,[CH3:1][C:2](=[O:3])[C:4]([C:5]([CH3:6])=[O:7])=[C:8]([c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:21][O:22][C:23](=[O:24])[C:25]#[N+:26][C-:27]([C:28]#[N:29])[C:30]([CH3:31])=[O:32]>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[C:25]([C:23]([O:22][CH3:21])=[O:24])=[N:26][C:27]1([C:28]#[N:29])[C:30]([CH3:31])=[O:32],water,298.15,27.488008024991142,-11.217610099597788
3159,3562,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][C:8]#[N+:9][C-:10]([CH3:11])[C:12](=[O:13])[NH:14][CH3:15]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:10]([CH3:11])([C:12](=[O:13])[NH:14][CH3:15])[N:9]=[C:8]1[CH3:7],water,298.15,19.5663754324392,-39.13751168089801
3708,4234,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][C:8](=[O:9])[C-:10]([C:11]#[N:12])[N+:13]#[C:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:10]([C:8]([CH3:7])=[O:9])([C:11]#[N:12])[N:13]=[C:14]1[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,21.54828979493278,-23.45596969001719
